US04349552
Diphenylphosphoryl azide (9.08 g.) was added dropwise to a solution of 1-admantanecarboxylic acid (5.4 g.) in dry pyridine (25 ml.) and stirred at 70° C. for one hour to give 1-adamantyl isocyanate [I.R.: 2250 cm-1 ].

reactant | Diphenylphosphoryl azide | 9.08 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | 1-admantanecarboxylic acid | 5.4 g | C12(CC3CC(CC(C1)C3)C2)C(=O)O | C11H16O2
reactant | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
product | 1-adamantyl isocyanate | C12(CC3CC(CC(C1)C3)C2)N=C=O | C11H15NO
